US07622501B2
Ethyl (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 2.6 g (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid in 20 mL of DMF at RT was added 3 mL of ethyl iodide and 485 mg of potassium carbonate under nitrogen. The reaction was stirred for 30 min, and then quenched by addition of NH4Cl sat., extracted with EtOAc, washed with water (3×), brine and dried over sodium sulfate. Purification by flash chromatography afforded 1.42 g of the titled compound as a colorless oil. 1H NMR (acetone-d6, 500 MHz): δ 7.78 (d, 2H), 7.45 (d, 2H), 7.17 (t, 3H), 7.09 (d, 2H), 5.52 (d, 1H), 5.26 (s, 2H), 5.00 (dd, 1H), 4.73 (dd, 1H), 4.28 (q, 2H), 4.16-4.12 (m, 2H), 3.06 (s, 3H), 1.88-1.79 (m, 4H), 1.27 (t, 3H).

reactant | (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 2.6 g | [N+](=O)([O-])OC(CCCOC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)CO[N+](=O)[O-] | C23H24N2O13S
reactant | ethyl iodide | 3 mL | C(C)I | C2H5I
reactant | potassium carbonate | 485 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 1.42 g | [N+](=O)([O-])OC(CCCOC(=O)OC\C(=C(/C(=O)OCC)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)CO[N+](=O)[O-] | C25H28N2O13S
